US08648086B2
To a mixture of 1-(5-chloro-2-methoxyphenyl)-3-(1H-indol-4-yl)urea (6.3 g, 20 mmol) in acetic acid (50 mL) was added portionwise NaBH3CN (1.9 g, 30 mmol), and the resulting mixture was stirred at rt for 1 h. The solvent was evaporated and residue was diluted with water, neutralized with NaHCO3 and extracted with EtOAc. The combined organic phase were washed with brine, dried and evaporated to give crude 1-(5-chloro-2-methoxyphenyl)-3-(2,3-dihydro-1H-indol-4-yl)urea (6.3 g, 100%), which was used directly in the next step without purification.

reactant | 1-(5-chloro-2-methoxyphenyl)-3-(1H-indol-4-yl)urea | 20 mmol, 6.3 g | ClC=1C=CC(=C(C1)NC(=O)NC1=C2C=CNC2=CC=C1)OC | C16H14ClN3O2
reactant | NaBH3CN | 30 mmol, 1.9 g | [BH3-]C#N.[Na+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 1-(5-chloro-2-methoxyphenyl)-3-(2,3-dihydro-1H-indol-4-yl)urea | 6.3 g, 100% | ClC=1C=CC(=C(C1)NC(=O)NC1=C2CCNC2=CC=C1)OC | C16H16ClN3O2
